US08334308B2
V.11; 3-(2-bromophenyl)propanamide
To a solution of commercially available 3-(2-bromophenyl)propanoic acid (1 eq.) in CH2Cl2 (0.22M) at room temperature was added oxalyl chloride (16 eq) and a catalytic amount of DMF. The mixture was stiffed for 2 h, diluted with toluene (0.022M) and concentrated. To the residue diluted in CH2Cl2 (0.1M) at 0° C. was added ammonia (0.5M in dioxanne (3 eq.). The mixture was stiffed 2 h at room temperature, concentrated, quenched with aqueous NaOH 1N and then extracted with EtOAc. The organic extract was washed with water, brine, dried over MgSO4 filtered and concentrated. Recrystallization in Et2O/hexane (1:1) afforded the desired compound as a white solid.

reactant | 3-(2-bromophenyl)propanoic acid | 1 eq. | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
reactant | oxalyl chloride | 16 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
reactant | dioxanne | 3 eq. | C1COCCO1 | C4H8O2
solvent | CH2Cl2 | 0.22M | C(Cl)Cl | CH2Cl2
solvent | toluene | 0.022M | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2-bromophenyl)propanamide | BrC1=C(C=CC=C1)CCC(=O)N | C9H10BrNO
